US06900354B2
a) 3-[4-(3,4-Difluoro-benzyloxy)-phenyl]-acrylic acid
2.5 g (15.2 mmol) p-cumaric acid is dissolved 100 ml ethyl methyl ketone. 4.21 g (30.5 mmol) potassium carbonate and 6.31 g (30.5 mmol) 3,4-difluorobenzyl bromide are added and the reaction mixture is hold at 70° C. over night. Dilution with water and extraction with ethyl acetate leaves a solid which is recrystallised from diethyl ether/n-hexane. The crude ester so obtained is dissolved in 100 ml THF and treated with 30.5 ml (30.5 mmol) of an aqueous 1 N sodium hydroxide solution. The mixture is heated to 50° C. for 6 hours, cooled and acidified with 1 N hydrochloric acid. The precipitate is filtered off and dried to yield 3.24 g (73%) of a colorless solid. MS: m/e=288.9 (M−H).

reactant | p-cumaric acid | 15.2 mmol, 2.5 g | C1=CC(=CC=C1/C=C/C(=O)O)O | C9H8O3
reactant | potassium carbonate | 30.5 mmol, 4.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-difluorobenzyl bromide | 30.5 mmol, 6.31 g | FC=1C=C(CBr)C=CC1F | C7H5BrF2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl methyl ketone | 100 ml | CC(=O)CC | C4H8O
product | 3-[4-(3,4-Difluoro-benzyloxy)-phenyl]-acrylic acid | 3.24 g, 73% | FC=1C=C(COC2=CC=C(C=C2)C=CC(=O)O)C=CC1F | C16H12F2O3
